**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-HEPC
* Library Type:           Pspice
* Version:                rev21a
* Created/modified by:    Ella
* Date and Time:          11/30/2022
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt HEPC_5030_74408053003_3u3 1 2
Rp 1 2 5294.2649
Cp 1 2 0.4823267954p
Rs 1 N3 0.06
L1 N3 2 2.9574803u
.ends HEPC_5030_74408053003_3u3
*******
.subckt HEPC_5030_74408053004_4u7 1 2
Rp 1 2 8709.8
Cp 1 2 0.6334588p
Rs 1 N3 0.08
L1 N3 2 5.1201u
.ends HEPC_5030_74408053004_4u7
*******
.subckt HEPC_5030_74408053006_6u8 1 2
Rp 1 2 10823.2
Cp 1 2 1.091p
Rs 1 N3 0.105
L1 N3 2 6.819u
.ends HEPC_5030_74408053006_6u8
*******
.subckt HEPC_5030_74408053100_10u 1 2
Rp 1 2 10305.1
Cp 1 2 1.9928p
Rs 1 N3 0.12
L1 N3 2 9.589u
.ends HEPC_5030_74408053100_10u
*******
.subckt HEPC_5030_74408053150_15u 1 2
Rp 1 2 12081
Cp 1 2 3.7677p
Rs 1 N3 0.18
L1 N3 2 14.4218u
.ends HEPC_5030_74408053150_15u
*******
.subckt HEPC_5030_74408053220_22u 1 2
Rp 1 2 14866.5
Cp 1 2 3.838p
Rs 1 N3 0.25
L1 N3 2 21.6409u
.ends HEPC_5030_74408053220_22u
*******
.subckt HEPC_5030_74408053330_33u 1 2
Rp 1 2 22485.2
Cp 1 2 3.216p
Rs 1 N3 0.345
L1 N3 2 31.7094u
.ends HEPC_5030_74408053330_33u
*******
.subckt HEPC_6030_74408063004_4u7 1 2
Rp 1 2 7433.57142857143
Cp 1 2 1.19469985714286p
Rs 1 N3 0.07
L1 N3 2 4.45085714285714u
.ends HEPC_6030_74408063004_4u7
*******
.subckt HEPC_6030_74408063006_6u8 1 2
Rp 1 2 7705.8
Cp 1 2 2.5444p
Rs 1 N3 0.08
L1 N3 2 6.296u
.ends HEPC_6030_74408063006_6u8
*******
.subckt HEPC_6030_74408063100_10u 1 2
Rp 1 2 10013.5555555556
Cp 1 2 2.96144444444444p
Rs 1 N3 0.125
L1 N3 2 8.99733333333333u
.ends HEPC_6030_74408063100_10u
*******
.subckt HEPC_6030_74408063150_15u 1 2
Rp 1 2 14361.3333333333
Cp 1 2 2.97616666666667p
Rs 1 N3 0.16
L1 N3 2 14.6466666666667u
.ends HEPC_6030_74408063150_15u
*******
.subckt HEPC_6030_74408063220_22u 1 2
Rp 1 2 18150.9
Cp 1 2 3.2345p
Rs 1 N3 0.2
L1 N3 2 22.7853u
.ends HEPC_6030_74408063220_22u
*******
.subckt HEPC_6030_74408063330_33u 1 2
Rp 1 2 22067.3
Cp 1 2 3.5133p
Rs 1 N3 0.265
L1 N3 2 31.0688u
.ends HEPC_6030_74408063330_33u
*******
.subckt HEPC_6030_74408063470_47u 1 2
Rp 1 2 29271.8571428571
Cp 1 2 3.90942857142857p
Rs 1 N3 0.365
L1 N3 2 44.5495714285714u
.ends HEPC_6030_74408063470_47u
*******
.subckt HEPC_6030_74408063680_68u 1 2
Rp 1 2 31927.5555555556
Cp 1 2 4.48433333333333p
Rs 1 N3 0.515
L1 N3 2 59.6892222222222u
.ends HEPC_6030_74408063680_68u
*******
.subckt HEPC_6030_74408063101_100u 1 2
Rp 1 2 50628.5
Cp 1 2 4.22425p
Rs 1 N3 0.8
L1 N3 2 98.916u
.ends HEPC_6030_74408063101_100u
*******
